US07868017B2
3,4-Dichloro-2-fluorophenol
Trifluoroacetic acid (0.5 mL) was added to a solution of 3-chloro-2-fluorophenol (750 mg, 5.12 mmol) and N-chlorosuccinimide (684 mg, 5.12 mmol) in acetonitrile (30 mL) and the reaction mixture stirred for 24 h. The mixture was concentrated in vacuo and purified by chromatography on silica gel with heptane:EtOAc (9:1, v/v) as eluent to afford the title compound (440 mg, 48%) as a pale yellow solid.

reactant | Trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-chloro-2-fluorophenol | 5.12 mmol, 750 mg | ClC=1C(=C(C=CC1)O)F | C6H4ClFO
reactant | N-chlorosuccinimide | 5.12 mmol, 684 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 3,4-Dichloro-2-fluorophenol | 440 mg, 48% | ClC=1C(=C(C=CC1Cl)O)F | C6H3Cl2FO
